US09260427B2
To a stirred solution of (S)-methyl 1-(2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)azetidine-3-carboxylate (360 mg, 0.678 mmol) and 5-(tert-butyl)thiophene-2-carboxylic acid (125 mg, 0.678 mmol) in DMF (6 mL, 77 mmol) was added DIEA (0.47 mL, 2.71 mmol) and the mixture cooled to 0° C. HATU (284 mg, 0.746 mmol) was added portion-wise and the reaction stirred at room temperature for 1 h. The mixture was poured onto citric acid (70 mL of a 10% w/w aqueous solution) and extracted with EA (2×100 mL). The combined organic extracts were washed with brine (50 mL), dried over MgSO4 and solvents evaporated. Column chromatography (EA/iso-hexanes) gave 389 mg (82%) of (S)-methyl 1-(2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)azetidine-3-carboxylate as a pale yellow solid. LCMS-ESI (m/z) calculated for C40H48N4O5S: 696.3. found 697.0 [M+H]+, tR=3.60 min (Method 6).

reactant | (S)-methyl 1-(2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)azetidine-3-carboxylate | 0.678 mmol, 360 mg | N[C@H](C(=O)N1CC(C1)C(=O)OC)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C31H38N4O4
reactant | 5-(tert-butyl)thiophene-2-carboxylic acid | 0.678 mmol, 125 mg | C(C)(C)(C)C1=CC=C(S1)C(=O)O | C9H12O2S
reactant | DMF | 77 mmol, 6 mL | CN(C)C=O | C3H7NO
reactant | DIEA | 2.71 mmol, 0.47 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.746 mmol, 284 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | (S)-methyl 1-(2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)azetidine-3-carboxylate | 389 mg, 82% | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)N1CC(C1)C(=O)OC)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C40H48N4O5S
